US07595327B2
A solution of 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (0.3 g, 0.525 mmol) and lithium hydroxide (0.1 g, 4.2 mmol) in THF:methanol:water (2.5: 1.5:1.5 mL) was stirred at 25° C. for 19 h. The solution was concentrated in vacuo to provide 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester as a crude solid (0.170 g, 58%). MS: 557 (M+H)+

reactant | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 0.525 mmol, 0.3 g | COC(=O)C1CN(CCC1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)OC(C)(C)C | C29H35N3O7S
reactant | lithium hydroxide | 4.2 mmol, 0.1 g | [OH-].[Li+]
solvent | THF methanol water | 1.5 mL | C1CCOC1.CO.O
product | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)O | C28H33N3O7S
